US05061720
1,3-Dihydro-1,3-dioxo-2H-isoindole-2-pentanoic acid ethyl ester.
This compound was prepared according to the procedure used to prepare 1,3-dihydro-1,3-dioxo-2H-isoindole octanoic acid ethyl ester. Thus, a mixture of 100 g (0.48 mole) of ethyl 5-bromovalerate (99%, Aldrich) and 94.5 g (0.50 mole) of potassium phthalimide (98%, Aldrich) in 300 mL of dimethylformamide gave 107.6 g (81%) of viscous oil. A 2.0 g sample of this oil was purified by high-pressure liquid chromatography (Waters Associates Prep LC/System 500A; PrepPak® 500 silica; ethyl acetate-hexanes, 1:10). Fractions containing title compound were combined and the solvents evaporated under reduced pressure to give 1.9 g (95% recovery) of colorless liquid.

reactant | ethyl 5-bromovalerate | 0.48 mole, 100 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium phthalimide | 0.50 mole, 94.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 1,3-Dihydro-1,3-dioxo-2H-isoindole-2-pentanoic acid ethyl ester | 107.6 g, 81% | C(C)OC(CCCCN1C(C2=CC=CC=C2C1=O)=O)=O | C15H17NO4
